US07323455B2
3-Fluoro-5-(5-methyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)benzonitrile
Prepared from 7-bromo-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 5-fluoro-3-cyanobenzeneboronic acid generally according to the coupling procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.18 (s, 1H), 8.09 (s, 1H), 7.96 (dt, J=9.8, 2.4 Hz, 1H), 7.80 (dt, J=8.3, 1.5 Hz, 1H), 7.76 (dd, J=8.3, 2.0 Hz, 1H), 7.72 (d, J=2.0 Hz, 1H), 7.55 (dd, J=5.4, 1.5 Hz, 1H), 7.28 (d, J=8.3 Hz, 1H), 6.99 (dd, J=4.9, 3.4 Hz, 1H), 6.89 (dd, J=3.4, 1.5 Hz, 1H), 4.17 (d, J=16.1 Hz, 1H), 4.04 (d, J=16.1 Hz, 1H), 2.12 (s, 3H); MS (ES) m/z 379 (M+H)+.

reactant | 7-bromo-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C)C1 | C14H12BrNO2S
reactant | 5-fluoro-3-cyanobenzeneboronic acid | FC=1C=C(C=C(C1)B(O)O)C#N | C7H5BFNO2
product | 3-Fluoro-5-(5-methyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)benzonitrile | FC=1C=C(C#N)C=C(C1)C=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C)C1 | C21H15FN2O2S
